US07230098B2
5-bromo-3-[1-(2-chloro-3,6-difluoro-phenyl)-ethoxy]-pyrazin-2-ylamine was prepared following procedure 2 from 1-(2-chloro-3,6-difluoro-phenyl)-ethanol and 3,5-dibromo-pyrazin-2-ylamine.

reactant | 1-(2-chloro-3,6-difluoro-phenyl)-ethanol | ClC1=C(C(=CC=C1F)F)C(C)O | C8H7ClF2O
reactant | 3,5-dibromo-pyrazin-2-ylamine | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
product | 5-bromo-3-[1-(2-chloro-3,6-difluoro-phenyl)-ethoxy]-pyrazin-2-ylamine | BrC=1N=C(C(=NC1)N)OC(C)C1=C(C(=CC=C1F)F)Cl | C12H9BrClF2N3O
